US05310537
A flask containing 4-iodoaniline (11.0 g, 50.2 mmol) was charged with dry dichloroethane (125 ml), 2-octanone (7.9 ml, 50.0 mmol) and sodium triacetoxyborohydride (13.8 g, 65 mmol). After stirring for 10 minutes, acetic acid (2.9 ml, 50.7 mmol) was added via syringe over a 5 minute period. The reaction was stirred under an N2 atmosphere for 16 hrs. At the end of this period the reaction was quenched by the careful addition of a solution of saturated aqueous ammonium chloride (100 ml). After stirring for 0.5 hr, the reaction was poured over ether (250 ml) and the layers were separated. The ether layer was washed with saturated aqueous ammonium chloride (100 ml), dried (Na2SO4), filtered and evaporated in vacuo. Flash column chromatography (silica, 1:39; EtOAC:hexanes) provided N-(4'-iodophenyl)-2-amino octane (14.6 g, 88%) as a light yellow oil.

reactant | 4-iodoaniline | 50.2 mmol, 11.0 g | IC1=CC=C(N)C=C1 | C6H6IN
reactant | dichloroethane | 125 ml | ClC(C)Cl | C2H4Cl2
reactant | 2-octanone | 50.0 mmol, 7.9 ml | CC(CCCCCC)=O | C8H16O
reactant | sodium triacetoxyborohydride | 65 mmol, 13.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 50.7 mmol, 2.9 ml | C(C)(=O)O | C2H4O2
product | N-(4'-iodophenyl)-2-amino octane | 14.6 g, 88% | IC1=CC=C(C=C1)NC(C)CCCCCC | C14H22IN
